* Current mirrors

*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
.include ../models/ptm_130.spi
.include ../lib/SUN_TRIO_GF130N.spi

*----------------------------------------------------------------
* Options
*----------------------------------------------------------------
.option TNOM=27 GMIN=1e-20

*----------------------------------------------------------------
* Sources
*----------------------------------------------------------------
V1 VDD 0 dc  3.0
V2 VG 0 dc 0 ac 1
V3 VSS 0 dc 0

*----------------------------------------------------------------
* DUTs
*----------------------------------------------------------------
R1 VDD VD 320k
XMN1 VD VD VSS VSS NCHIOA


XMN2 VS VD VSS VSS NCHIOA
R2 VDD VR 100k
R3 VR VSS 100k
XM1 VO VR VS VSS NCHIOA_12C
XM2 V2 VX1 VS VSS NCHIOA_12C
C1 VX1 VSS 1p
R4 VO VDD 100k
XMPD1 V2 V2 VDD VDD PCHIOA_12C

XMN3 VX1 VD VSS VSS NCHIOA
XMP3 VX1 VO VDD VDD PCHIOA_12C

R0 VO VG1 500k
C0 VG VG1 10p
XMN4a VX VD VSS VSS NCHIOA
XMN4b VX VD VSS VSS NCHIOA
XMN4c VX VD VSS VSS NCHIOA
XMN4d VX VD VSS VSS NCHIOA
XMP4a VX VG1 VDD VDD PCHIOA_12C
XMP4b VX VG1 VDD VDD PCHIOA_12C
XMP4c VX VG1 VDD VDD PCHIOA_12C
XMP4d VX VG1 VDD VDD PCHIOA_12C

*----------------------------------------------------------------
* Analysis
*----------------------------------------------------------------
.op


#com
.ac dec 50 1k 1G
.plot ac vm(vx)
#endcom
